US08466167B2
To a solution of 5-(4-acetylphenethyl)-3-chloropicolinonitrile (from the previous step) (1 eq) and tert-butyl 5-methyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylcarbamate (1.0 eq.), tetrakis(triphenyl-phosphine)palladium (10 mol %), and 2N aqueous sodium carbonate solution (2.0 eq.) in toluene/ethanol (1:1, 0.09 M) was heated under microwave condition using a BIOTAGE INITIATOR 2.0 at 150° C. for 20 minutes. After cooling to ambient temperature, the reaction mixture was diluted with ethanol/water. The insoluble solids were filtered off, and the filtrate was concentrated en vaccuo to obtain a crude residue. The crude material was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-80% ethyl acetate in hexane to give 1-(4-(2-(5-amino-8-methylbenzo[f][1,7]naphthyridin-2-yl)ethyl)phenyl)ethanone as a yellow solid. 1H NMR (Methanol-d4) TFA Salt: δ 8.69 (d, 2H), 8.30 (d, 1H), 7.80 (d, 2H), 7.38 (s, 1H), 7.36 (d, 1H), 7.28 (d, 2H), 3.25 (t, 2H), 3.13 (t, 2H), 2.47 (s, 3H), 2.45 (s, 3H).

reactant | 5-(4-acetylphenethyl)-3-chloropicolinonitrile | C(C)(=O)C1=CC=C(CCC=2C=C(C(=NC2)C#N)Cl)C=C1 | C16H13ClN2O
reactant | tert-butyl 5-methyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylcarbamate | 1.0 eq. | CC=1C=CC(=C(C1)NC(OC(C)(C)C)=O)B1OC(C(O1)(C)C)(C)C | C18H28BNO4
reactant | sodium carbonate | 2N, 2.0 eq. | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene ethanol | 0.09 M | C1(=CC=CC=C1)C.C(C)O
solvent | ethanol water | C(C)O.O
product | 1-(4-(2-(5-amino-8-methylbenzo[f][1,7]naphthyridin-2-yl)ethyl)phenyl)ethanone | NC1=NC2=C(C=3C=C(C=NC13)CCC1=CC=C(C=C1)C(C)=O)C=CC(=C2)C | C23H21N3O
